US07691877B2
[2-Amino-6-(4,5-dimethyl-oxazol-2-yl )-3-nitro-pyridin-4-yl]-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester
The title compound was prepared following the example in preparation 70, using 4,5-dimethyl-oxazole (47 mg) and (2-amino-6-bromo-3-nitro-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester (100 mg), giving the product (75 mg) as a yellow gum.

reactant | 4,5-dimethyl-oxazole | 47 mg | CC=1N=COC1C | C5H7NO
reactant | (2-amino-6-bromo-3-nitro-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | 100 mg | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C15H16BrN5O4
product | [2-Amino-6-(4,5-dimethyl-oxazol-2-yl )-3-nitro-pyridin-4-yl]-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)C=1OC(=C(N1)C)C)N)[N+](=O)[O-])=O | C20H22N6O5
